US08461179B1
A mix of satd. NH4Cl (5.19 mL) in EtOH (8 mL) was treated with 1-(2-fluoro-5-nitrophenyl)-N,N-dimethylmethanamine (494 mg, 2.49 mmol), followed by iron powder (1.39 g, 24.93 mmol) and heated at 55° C. overnight. The mixture was cooled to RT, the solids removed via filtration through diatomaceous earth and washed with 10% MeOH/DCM. The filtrate was concentrated to dryness, the residue treated with DCM, sonicated and the resulting solid collected via filtration, washed with THF and dried to afford 3-((dimethylamino)methyl)-4-fluoroaniline (305 mg, 72% yield). MS (ESI) m/z: 169.1 [M+H]+.

reactant | NH4Cl | 5.19 mL | [NH4+].[Cl-]
reactant | 1-(2-fluoro-5-nitrophenyl)-N,N-dimethylmethanamine | 2.49 mmol, 494 mg | FC1=C(C=C(C=C1)[N+](=O)[O-])CN(C)C | C9H11FN2O2
solvent | EtOH | 8 mL | CCO | C2H6O
catalyst | iron | 24.93 mmol, 1.39 g | [Fe] | Fe
product | 3-((dimethylamino)methyl)-4-fluoroaniline | 305 mg, 72% yield | CN(C)CC=1C=C(N)C=CC1F | C9H13FN2
